US08012976B2
A mixture of benzyl 4-formylbenzyl(methyl)carbamate (566 mg, 2 mmol) and 4-(benzylideneamino) isobenzofuran-1-one (474 mg, 2 mmol) in ethyl propionate (15 mL) was cooled to 0° C. A solution of sodium methoxide in methanol [sodium (184 mg, 8 mmol) in methanol (15 mL)] was then added dropwise. After the addition, the mixture was stirred at 25° C. for 18 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (50 mL×3). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=100:1 to 10:1) to give a mixture of methyl 3-(4-(((benzyloxycarbonyl)(methyl)amino)methyl)-phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate and ethyl 3-(4-(((benzyloxycarbonyl)(methyl)amino)methyl)-phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (220 mg, yield 20%) as a light yellow solid. LC-MS (ESI) m/z: 535 (M+1)+ and 549(M+1)+.

reactant | benzyl 4-formylbenzyl(methyl)carbamate | 2 mmol, 566 mg | C(=O)C1=CC=C(CN(C(OCC2=CC=CC=C2)=O)C)C=C1 | C17H17NO3
reactant | 4-(benzylideneamino) isobenzofuran-1-one | 2 mmol, 474 mg | C(C1=CC=CC=C1)=NC1=C2COC(C2=CC=C1)=O | C15H11NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 8 mmol, 15 mL, 184 mg | CO | CH4O
reactant | methyl 3-(4-(((benzyloxycarbonyl)(methyl)amino)methyl)-phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OC)C1=CC=CC=C1 | C33H30N2O5
solvent | ethyl propionate | 15 mL | C(CC)(=O)OCC | C5H10O2
product | ethyl 3-(4-(((benzyloxycarbonyl)(methyl)amino)methyl)-phenyl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 220 mg, yield 20% | C(C1=CC=CC=C1)OC(=O)N(C)CC1=CC=C(C=C1)C1C(NC=2C=CC=C(C2C1=O)C(=O)OCC)C1=CC=CC=C1 | C34H32N2O5
